US07626020B2
[4-(1,3,4-oxadiazol-2-yl)phenyl]boronic acid
A solution of methyllithium (8% w/w in diethoxymethane) (65 ml) was added to a suspension of 2-(4-bromophenyl)-1,3,4-oxadiazole (40 g) in tetrahydrofuran (THF) (415 ml) at −65° C. After an hour a solution of n-butyllithium (2.5M in hexanes) (78 ml) was then added at −65° C. After an hour, triisopropylborate (90 ml)) was then added maintaining the reaction mixture at −65° C. The reaction mixture was held at −65° C. for an hour and then warmed to −20° C. and drowned out into a mixture of acetic acid (28 ml) in water (222 ml). The resultant solid was isolated, washed with THF and water, and dried to yield the title compound (28.96 g@ 95.1% w/w, 82%); 400 MHz NMR Spectrum: (DMSOd6) 8.00 (s, 4H), 8.31 (s, 2H), 9.35 (s, 1H); Mass Spectrum MH+ 191.0628 (calc. using 11-B) Found 191.0633.

reactant | methyllithium | 65 ml | C[Li]
reactant | 2-(4-bromophenyl)-1,3,4-oxadiazole | 40 g | BrC1=CC=C(C=C1)C=1OC=NN1 | C8H5BrN2O
reactant | n-butyllithium | 2.5M, 78 ml | C(CCC)[Li]
reactant | triisopropylborate | 90 ml | C(C)(C)OB(OC(C)C)OC(C)C | C9H21BO3
solvent | tetrahydrofuran | 415 ml | O1CCCC1 | C4H8O
solvent | water | 222 ml | O | H2O
solvent | acetic acid | 28 ml | C(C)(=O)O | C2H4O2
product | [4-(1,3,4-oxadiazol-2-yl)phenyl]boronic acid | 28.96 g, 82% | O1C(=NN=C1)C1=CC=C(C=C1)B(O)O | C8H7BN2O3
